Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: MEDICINE
 
Allergies: 
Benzodiazepines / Nembutal Sodium / vancomycin
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS
--------------
___ 05:48AM BLOOD WBC-8.6 RBC-4.82 Hgb-12.5 Hct-38.9 
MCV-81* MCH-25.9* MCHC-32.1 RDW-13.8 RDWSD-40.1 Plt ___
___ 01:47PM BLOOD Neuts-60.1 ___ Monos-5.4 Eos-1.2 
Baso-0.7 Im ___ AbsNeut-4.15 AbsLymp-2.23 AbsMono-0.37 
AbsEos-0.08 AbsBaso-0.05
___ 05:48AM BLOOD Glucose-194* UreaN-9 Creat-0.6 Na-140 
K-4.4 Cl-100 HCO3-20* AnGap-20*

IMAGING
-------
ECG on admission: sinus tachycardia

 
Brief Hospital Course:
___ female with developmental delay, bithalamic low 
grade astrocytoma with a reported BRAF mutation now off therapy 
who presents with suicidal ideation, hyperglycemia and 
tachycardia. 

# Tachycardia: - ECG demonstrates sinus tachycardia.  This 
appears to be longstanding and was present during her outpatient 
appointments.  She should have TTE at ___ for 
further evaluation.  TSH normal.

# Astrocytoma
# Headache: Will need to touch base with her parents and 
oncology to determine if further imaging needed at ___.  
Patient is concerned with these symptoms, and it should be 
re-evaluated at ___.

# Diabetes, poorly controlled: unclear why this is poorly 
controlled.  Home regimen was continued during stay.  Further 
titration of insulin regimen will likely be needed at ___.

# Depression
# Suicidal ideation: continued amitriptyline/clonazepam PRN and 
latuda (lurasidone) 60 mg.  Psychiatry followed while patient 
was admitted, and she will be admitted to ___ facility at 
___.  Family was notified.

# Seizure disorder: continued Keppra and clonazepam prn 

# Hypothyroidism: continued levothyroxine

TRANSITIONS OF CARE
-------------------
# Follow-up: patient will be discharged to ___ for 
further care.  TTE should be considered to look into 
tachycardia.  Further titration of diabetes medications will be 
needed.  Patient may need further brain imaging given headaches 
and known astrocytoma.

# Contacts/HCP/Surrogate and Communication:  Father - Dr. ___
# Code Status/Advance Care Planning: Presumed FULL

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 2500 mg PO BID 
2. Levothyroxine Sodium 75 mcg PO DAILY 
3. MetFORMIN (Glucophage) ___ mg PO QPM 
4. Amitriptyline 20 mg PO QPM 
5. Cetirizine 10 mg PO DAILY:PRN allergies 
6. ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
7. ClonazePAM 0.25 mg PO DAILY:PRN seizure 
8. Glargine 80 Units Breakfast
Humalog 25 Units Breakfast
Humalog 25 Units Lunch
Humalog 25 Units Dinner
Insulin SC Sliding Scale using HUM Insulin
9. Latuda (lurasidone) 60 mg oral QPM 

 
Discharge Medications:
1.  Glargine 80 Units Breakfast
Humalog 25 Units Breakfast
Humalog 25 Units Lunch
Humalog 25 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
2.  Amitriptyline 20 mg PO QPM  
3.  Cetirizine 10 mg PO DAILY:PRN allergies  
4.  ClonazePAM 0.5 mg PO DAILY:PRN anxiety 
RX *clonazepam 0.5 mg 1 tablet(s) by mouth once a day Disp #*3 
Tablet Refills:*0 
5.  ClonazePAM 0.25 mg PO DAILY:PRN seizure 
RX *clonazepam 0.5 mg 0.5 (One half) tablet(s) by mouth once a 
day Disp #*3 Tablet Refills:*0 
6.  Latuda (lurasidone) 60 mg oral QPM  
7.  LevETIRAcetam 2500 mg PO BID  
8.  Levothyroxine Sodium 75 mcg PO DAILY  
9.  MetFORMIN (Glucophage) ___ mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Tachycardia
Diabetes, uncontrolled
Brain neoplasm
Suicidal ideation
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization.  You came to the hospital with fast heart rate, 
as well as thoughts of hurting yourself.  You will continue 
further work-up at ___.  You are now being 
discharged.

It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

Good luck!

 
Followup Instructions:
___